US08357686B2
1-{4-[(1R,9aR)-1-(Octahydroquinolizin-1-yl)methoxy]phenyl}-3-(4-phenoxy-phenyl)urea
A solution of 4-phenoxyaniline (185 mg) in DMF (1 ml) was added dropwise to a solution, cooled to 0° C., of carbonyldiimidazole (162 mg) in DMF (1 ml). After 30 minutes, 4-[(1R,9aR)-1-(octahydroquinolizin-1-yl)-methoxy]-phenylamine (289 mg) in DMF (1 ml) was added dropwise. The reaction solution was kept firstly at room temperature for 2 hours and then at 80° C. for 30 minutes. The mixture was added dropwise to water (20 ml), and the resulting precipitate was filtered off with suction and washed with water. Alternatively, the product can also be extracted with ethyl acetate and purified after concentration by chromatography. The product with the molecular weight of 471.60 (C29H33N3O3); MS (ESI): 472 (M+H+) was obtained in this way.

reactant | 4-phenoxyaniline | 185 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | carbonyldiimidazole | 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[(1R,9aR)-1-(octahydroquinolizin-1-yl)-methoxy]-phenylamine | 289 mg | [C@H]1(CCCN2CCCC[C@H]12)COC1=CC=C(C=C1)N | C16H24N2O
reactant | water | 20 ml | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-{4-[(1R,9aR)-1-(Octahydroquinolizin-1-yl)methoxy]phenyl}-3-(4-phenoxy-phenyl)urea | [C@H]1(CCCN2CCCC[C@H]12)COC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C29H33N3O3
